data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][N+:21]1=C2C3=C(CC(C2=NC4=C1C=CC(=C4)C(=O)C5=CC=CC=C5)(C)C)N(N=C3)C6=CC=C(C=C6)F.C1=CC=C(C=C1)C(=O)C2=CC(=C(C=C2)N)[NH2:10].CCO.O.[Cl-]>>[H:20][NH2+:10]C1=C(C=CC(=C1)C(=O)C2=CC=CC=C2)N.CC1(CC2=C(C=NN2C3=CC=C(C=C3)F)C4=[N:21]C5=C(C=C(C=C5)C(=O)C6=CC=CC=C6)N=C41)C.CCO.O.[Cl-] 10=20;20,21=21
C[CH2:20][O:21]S(=O)(=O)C(F)(F)F.C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3>>C[CH2:20][P+:10](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C(F)(F)(F)S(=O)(=O)[O-:21] 10=20;20,21=21
CC(=O)C[C:20](C)([O-:10])[O:21]C(=O)C=C>>C=CC(=O)[O-:21].CC(=O)C[C:20](=[O:10])C 10=20;20,21=21
CC[C:11](=[O:10])[NH:12]C(CC1CCCCC1)[C:20](=[O:21])OC(=O)CC.CCC(=O)[O-].C1=CC=[NH+]C=C1>>CC[C:11]1=[NH+:12]C(CC2CCCCC2)[C:20]([O-:21])([O:10]1)OC(=O)CC.CCC(=O)[O-].C1=CC=[NH+]C=C1 10,11=10,20;12=11;20,21=21
CC(C)(C)[O-:10].C[N+](=CO[AlH2:20])CCC1=C(C=C(C(=C1)OC)OC)I>>CC(C)(C)[O:10][AlH2-:20]OC=[N+](C)CCC1=C(C=C(C(=C1)OC)OC)I 10=20,
C[S:10]C[CH2:20][Br:21]>>C[S+:10]1C[CH2:20]1.[Br-:21] 10=20;20,21=21
[H:20][N:21]1C(=O)C2=C(C1=O)C=CC=C2.[H:10][K:11]>>C1=CC2=C(C=C1)C(=O)[N-:21]C2=O.[H:10][H:20].[K+:11] 10,11=10,20;20,21=21
C[CH:20]=[Cl+:21].[Br-:10]>>C[CH:20]([Cl:21])[Br:10] 10=20;20,21=21
[C:20](=[OH+:21])(O)O.[OH2:10]>>[C:20]([OH2+:10])(O)(O)[OH:21] 10=20;20,21=21
CC[O+:21](C)[CH2:20]C.CC([C:11](=[O:10])[NH2:12])OC1=CC=CC=C1.COC>>CC[O:21]C.C[CH2:20][O:10][C:11](=[NH2+:12])C(C)OC1=CC=CC=C1.COC 10,11=10,20;20,21=21;12=11
[H:20][OH+:21]C1(C2=C(C=CC=C2)C(=O)N1CCC)O.[OH2:10]>>CCCN1C(=O)C2=C(C1(O)[OH:21])C=CC=C2.[H:20][OH2+:10] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC=[O:10]>>[H:20][O+:10]=CC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][C:21](C)(C)[O:22][S+:23](C)[CH2-:10]>>[H:20][CH2:10][S:23]C.C[C:21](=[O:22])C 10=20;22,23=23;20,21=21,22
[CH2:10]1C[C:20]([C:11]1(O)[O-:12])(OC2=CC=CC=C2)[Br:21]>>C1[CH2:10][C:20]1([C:11](=[O:12])O)OC2=CC=CC=C2.[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][OH2+:21].CC(=O)C(C1=CC=CC=C1)C(C)(CC2=CC=CC=C2)[O-:10]>>[H:20][O:10]C(C)(CC1=CC=CC=C1)C(C2=CC=CC=C2)C(=O)C.[OH2:21] 10=20;20,21=21
[B-]([O+:21]=[CH:20]C(C1CCCCC1)O[Si](C)(C)C(C)(C)C)(F)(F)F.CCCC[Sn](CCCC)(CCCC)C[CH:11]=[CH2:10]>>[B-]([O:21][CH:20]([CH2:10][CH+:11]C[Sn](CCCC)(CCCC)CCCC)C(C1CCCCC1)O[Si](C)(C)C(C)(C)C)(F)(F)F 10,11=10,20;20,21=21
CCOC(=O)C=CC1=C(C(=CC=C1)F)[CH:20]=[O+:21]CCCO.[OH2:10].CC(=O)[O-]>>CCOC(=O)C=CC1=C(C(=CC=C1)F)[CH:20]([OH2+:10])[O:21]CCCO.CC(=O)[O-] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC[NH:10]C(C)OC>>[H:20][NH+:10](CC)C(C)OC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][NH+:21]1C2=C(C=CC=C2)C3C1(CCC4C3N(CC4)CCS(=O)C5=CC=CC=C5)N.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.C1CC2(C(C3C1CCN3CCS(=O)C4=CC=CC=C4)C5=C([NH:21]2)C=CC=C5)N.O 10=20;20,21=21
[Li][O:10][CH:20](C12C(=C)C(N1S(=O)(=O)C3=C2C=CC=C3)N(C4=CC=CC=C4)S(=O)(=O)C5=CC=C(C=C5)C)[O+:21](CC)[AlH3-]>>[Li][O+:10]=[CH:20]C12C(=C)C(N1S(=O)(=O)C3=C2C=CC=C3)N(C4=CC=CC=C4)S(=O)(=O)C5=CC=C(C=C5)C.CC[O:21][AlH3-] 10=20;20,21=21
CC(C)OC1=C2C=CC(=C(C2=C[C:10](=C1)[CH:11]([OH:12])[O:20][O:21]C(=O)C3=CC(=CC=C3)Cl)OC)Br>>CC(C)OC1=C2C=CC(=C(C2=C[C:10](=C1)[O:20][CH:11]=[OH+:12])OC)Br.C1=CC(=CC(=C1)Cl)C(=O)[O-:21] 10,11=10,20;20,21=21;12=11
C[NH:10]C.C[Si:20](C)(C)Cl>>C[NH+:10](C)[Si-:20](C)(C)(C)Cl 10=20,
[CH2:20]=[OH+:21].[Cl-:10]>>[CH2:20]([OH:21])[Cl:10] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=C(C=C2)C#N)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=C(C=C2)C#N)[C:21](=[CH:22]1)[N+](=O)[O-] 10=20;20,21=21,22
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)Br)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:24](=[CH:23][CH:22]=[C:21]1[N+](=O)[O-])Br 10=20;20,21=21,22;22,23=23,24
[H:20][O:21]C(=O)C1=CC=C(C=C1)[N+](=O)[O-].CCOC(=O)[N-:10]N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC(CCCCN1C(=O)C2=C(N=CN2CC3=CC=CC=C3)N(C1=O)C)O.CN1CC(CC1=O)O>>[H:20][N:10](C(=O)OCC)N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC(=CC=C1C(=O)[O-:21])[N+](=O)[O-].CC(CCCCN1C(=O)C2=C(N=CN2CC3=CC=CC=C3)N(C1=O)C)O.CN1CC(CC1=O)O 10=20;20,21=21
[Li:11][CH:10](C)CC.CCCCCCC#CC1C(CCCO1)[I:20]>>[Li+:11].CCCCCCC#CC1C(CCCO1)[I-:20][CH:10](C)CC 10,11=10,20
[H:20][O:21]S(=O)(=O)O.CCNCC=C(C)[O-:10]>>[H:20][O:10]C(=CCNCC)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
C[CH:10]=[O+:11][Fe-](Cl)(Cl)Cl>>C[CH+:10][O:11][Fe-](Cl)(Cl)Cl 10,11=11
C[OH+:21][CH:20]([O:10]C)SC>>C[OH:21].C[O+:10]=[CH:20]SC 10=20;20,21=21
C1CO[C:20]([O:21]C1)(N)[O-:10]>>C(C[O-:21])CO[C:20](=[O:10])N 10=20;20,21=21
CC[C:10](=[NH2+:11])C>>CC[C+:10](C)[NH2:11] 10,11=11
CC([C:20](=[O:21])C(Br)(Br)Br)(Br)Br.[OH-:10]>>CC([C:20](C(Br)(Br)Br)([OH:10])[O-:21])(Br)Br 10=20;20,21=21
CCCCCCC#CC1(CCCCC1)O[K-:10][OH+:11]C(C)(C)C>>CCCCCCC#CC1(CCCCC1)O[K:10].CC(C)(C)[OH:11] 10,11=11
C1=CC(=C(C=C1)[N+]#N)[N:10]=[N:20][OH2+:21]>>C1=CC(=C(C=C1)[N+:10]#[N:20])[N+]#N.[OH2:21] 10=20;20,21=21
[B:20](F)(F)F.CC(=[O:10])O.CC=C(C(=O)C)C(C)(C)[Si](C)(C)C>>[B-:20]([O+:10]=C(C)O)(F)(F)F.CC=C(C(=O)C)C(C)(C)[Si](C)(C)C 10=20,
[H:20][O+:21]1CCCCC1(C)C(C)Br.[Br-:10]>>[H:20][Br:10].CC(C1(CCCC[O:21]1)C)Br 10=20;20,21=21
